US08912188B2
To a solution of methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (150 mg, 0.51 mmol) in dioxane (5 mL) was added 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (395 mg, 1.54 mmol), K2CO3 (106 g, 0.77 mmol), Pd(PPh3)4 (30 mg, 0.03 mmol) and water (5 drops). The resulting solution was stirred for 5 h at 90° C., and then poured into water (100 mL), extracted with DCM (4×50 mL), dried over anhydrous sodium sulfate and then concentrated under vacuum to give a residue. The residue was purified via silica gel chromatography (25% ethyl acetate in petroleum ether) to afford methyl 3-(isopropyl(methyl)amino)-2-(3-methyl-1H-indol-5-yl)quinoxaline-6-carboxylate as a yellow solid (80 mg, 45%).

reactant | methyl 2-chloro-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.51 mmol, 150 mg | ClC1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C14H16ClN3O2
reactant | 3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 1.54 mmol, 395 mg | CC1=CNC2=CC=C(C=C12)B1OC(C(O1)(C)C)(C)C | C15H20BNO2
reactant | K2CO3 | 0.77 mmol, 106 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | water | 5 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(isopropyl(methyl)amino)-2-(3-methyl-1H-indol-5-yl)quinoxaline-6-carboxylate | 80 mg, 45% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=C2C(=CNC2=CC1)C)C | C23H24N4O2
